US09315520B2
Step 1. Synthesis of ethyl 2-[(E)-2-phenylethenyl]-1,3-oxazole-4-carboxylate (C26)
A mixture of (2E)-3-phenylprop-2-enamide (2.00 g, 13.6 mmol) and sodium bicarbonate (4.57 g, 54.4 mmol) in tetrahydrofuran (48 mL) was cooled to 0° C. Ethyl 3-bromo-2-oxopropanoate (3.16 mL, 25.2 mmol) was added drop-wise, and the reaction mixture was heated at reflux for 4 hours, whereupon it was filtered through diatomaceous earth and concentrated in vacuo. The residue was dissolved in tetrahydrofuran (33 mL), cooled to 0° C., and treated drop-wise with trifluoroacetic anhydride (14.8 mL, 105 mmol). The reaction mixture was stirred at room temperature for 10 hours, then cooled to 0° C. and quenched via addition of saturated aqueous sodium bicarbonate solution. The mixture was extracted three times with ethyl acetate, and the combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Chromatography on silica gel (Gradient: 0% to 30% ethyl acetate in heptane) provided partially purified product; this was crystallized from heptane/ethyl acetate to afford the product as pale yellow needles. Yield: 1.52 g, 6.25 mmol, 46%. LCMS m/z 244.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.20 (s, 1H), 7.63 (d, J=16.4 Hz, 1H), 7.51-7.56 (m, 2H), 7.34-7.43 (m, 3H), 6.97 (d, J=16.5 Hz, 1H), 4.42 (q, J=7.1 Hz, 2H), 1.41 (t, J=7.1 Hz, 3H).

reactant | (2E)-3-phenylprop-2-enamide | 13.6 mmol, 2.00 g | C1(=CC=CC=C1)/C=C/C(=O)N | C9H9NO
reactant | sodium bicarbonate | 54.4 mmol, 4.57 g | C([O-])(O)=O.[Na+]
reactant | Ethyl 3-bromo-2-oxopropanoate | 25.2 mmol, 3.16 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | trifluoroacetic anhydride | 105 mmol, 14.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 48 mL | O1CCCC1 | C4H8O
product | ethyl 2-[(E)-2-phenylethenyl]-1,3-oxazole-4-carboxylate | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)C(=O)OCC | C14H13NO3
